US04364956
Freshly distilled chloroacetone (31 ml) was added to a solution of sodium iodide (1.0 g) in dry acetone (50 ml). The mixture was allowed to stand for 1 hour at room temperature and then added over 1 hour to a stirred, refluxing mixture of 4-(cyclohexyl)phenol (52.8 g) and anhydrous potassium carbonate (52 g) in dry acetone (100 ml). The stirred mixture was heated under reflux for a further 5 hours, filtered and evaporated to a brown oil which crystallised from ether-petroleum spirit (40°-60° C.) to give 1-[4-(cyclohexyl)phenoxy]-2-propanone (mp 58° C.).

reactant | chloroacetone | 31 ml | ClCC(C)=O | C3H5ClO
reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | 4-(cyclohexyl)phenol | 52.8 g | C1(CCCCC1)C1=CC=C(C=C1)O | C12H16O
reactant | potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-[4-(cyclohexyl)phenoxy]-2-propanone | C1(CCCCC1)C1=CC=C(OCC(C)=O)C=C1 | C15H20O2
